US04829075
4-Phenylphenyl 1-(1,2,4-triazol-1-yl)-cyclopropyl ketone
44.7 g (0.648 mol) of 1,2,4-triazole and 89.5 g (0.648 mol) of anhydrous potassium carbonate were suspended in 525 ml of acetonitrile, and, under reflux, 202 g (0.6 mol) of of acetonitrile, and, under reflux, 202 g (0.6 mol) of 1-bromo-3-chloropropyl 4-phenylphenyl ketone were added in portions over 20 minutes. After a reaction time of 3 hours under reflux, the mixture was poured into ice water and the crystals obtained were filtered off under suction. 162.0 g (93% of theory) of colorless crystals of melting point 154°-5° C. were obtained.

reactant | 1,2,4-triazole | 0.648 mol, 44.7 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.648 mol, 89.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropyl 4-phenylphenyl ketone | 0.6 mol, 202 g | C1(=CC=CC=C1)C1=CC=C(C=C1)C(=O)C(CCCl)Br | C16H14BrClO
solvent | acetonitrile | 525 ml | C(C)#N | C2H3N
product | 4-Phenylphenyl 1-(1,2,4-triazol-1-yl)-cyclopropyl ketone | N1(N=CN=C1)C1(CC1)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C18H15N3O
